*
.SUBCKT BAS40 1 3 
* The Resistor R1 does not 
* reflect a physical device. 
* Instead it improves modeling
* in the reverse mode of 
* operation.
R1 1 3 6.659E+08 
D1 1 3 BAS40 
*
.MODEL BAS40 D( 
+ IS = 1.419E-08 
+ N = 1.025 
+ BV = 44 
+ IBV = 1.255E-07 
+ RS = 4.942 
+ CJO = 4.046E-12 
+ VJ = 0.323 
+ M = 0.4154 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2) 
.ENDS
*
